US06897208B2
A solution of 5-chloro-4-methyl-1,2-phenylenediamine (7.8 g) in a mixture of formic acid (35 mL) and hydrochloric acid (300 mL) was heated at 50° C. for 3 hours then treated with ammonium hydroxide solution until the solution was basic. The reaction mixture was then extracted with dichloromethane. The extracts were evaporated to give 6-chloro-5-methyl-1H-benzoimidazole (7 g).

reactant | 5-chloro-4-methyl-1,2-phenylenediamine | 7.8 g | ClC=1C(=CC(=C(C1)N)N)C | C7H9ClN2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formic acid | 35 mL | C(=O)O | CH2O2
solvent | hydrochloric acid | 300 mL | Cl | ClH
product | 6-chloro-5-methyl-1H-benzoimidazole | 7 g | ClC=1C(=CC2=C(NC=N2)C1)C | C8H7ClN2
